US07223766B2
1-Amino-1H-pyrrole-2-carboxylic acid amide
1-Amino-1H-pyrrole-2-carbonitrile (2.52 g, 23.5 mmole) was suspended in 75 ml water, treated with potassium hydroxide (32 g, 0.57 mole), 30% hydrogen peroxide (2 ml) and stirred overnight at room temperature. Cooled reaction mixture to 0° C. for 30 min and isolated product by filtration, washed with cold water and dried under vacuum to give 2.55 g product (yield: 87%)

reactant | 1-Amino-1H-pyrrole-2-carbonitrile | 23.5 mmole, 2.52 g | NN1C(=CC=C1)C#N | C5H5N3
reactant | potassium hydroxide | 0.57 mole, 32 g | [OH-].[K+]
reactant | hydrogen peroxide | 2 ml | OO | H2O2
solvent | water | 75 ml | O | H2O
product | 1-Amino-1H-pyrrole-2-carboxylic acid amide | 2.55 g, yield: 87% | NN1C(=CC=C1)C(=O)N | C5H7N3O
